US08835454B2
Synthesis of (hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl)(phenyl)methanone
tert-butyl 5-benzoylhexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate (100 mg) was dissolved in 10% TFA solution in CH2Cl2 (10 mL). The reaction was stirred at room temperature for 24 hours. After removal of solvents, the residue, (hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl)(phenyl)methanone, was used in the further reactions without purification.

reactant | tert-butyl 5-benzoylhexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate | 100 mg | C(C1=CC=CC=C1)(=O)N1CC2C(C1)CN(C2)C(=O)OC(C)(C)C | C18H24N2O3
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | (hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl)(phenyl)methanone | C1N(CC2C1CNC2)C(=O)C2=CC=CC=C2 | C13H16N2O
